US08039566B2
A mixture of formic acid (14.361 g, 0.312 mol) and acetic anhydride (12.659 g, 0.124 mol) was stirred at room temperature for 1 h under an argon atmosphere. This mixture was added to a solution of 2,6-diisopropylaniline (17.729 g, 0.1 mol) in dry dichloromethane (60 ml) at such a rate that the temperature of the reaction mixture was kept between 5 and 10° C. The reaction was stirred at room temperature for 16 h and then refluxed for 4 h. The solvent was evaporated under reduced pressure, the residue was dissolved in CHCl3 (200 mL) and washed with a saturated aqueous NaHCO3 solution (3×200 mL), and water (200 mL). The organic layer was dried over Na2SO4 and the solvent was evaporated under reduced pressure. The remaining yellow solid was recrystallized from diethyl ether (500 mL) to afford N-formyl-2,6-diisopropylaniline 8e3 as a white solid (13.96 g, 68%). 1H NMR (CDCl3, 300 MHz): δ=8.47-8.01 (m, 1H, CHO), 7.36-7.18 (m, 3H), 6.79 (broad s, 1H, NH), 3.06-3.26 (m, 2H), 1.21 (d, J=7 Hz, 12H). 2 (a) Arduengo, A. J.; Goerlich, J. R.; Marshall, W. J. Liebigs Ann./Recueil 1997, 365-374. (b) J. Liebscher, Methoden der Organischen Chemie (Houben-Weyl) 4th ed. (Ed.: E. Schaumann), Georg Thieme Verlag, New York, 1994 Band E 8b, Heratrene III/Part 2, p. 48. (c) Hromatka, O. U.S. Pat. No. 2,160,867, 1939.3 Kamer, P. C. J.; Nolte, R. J. M.; Drenth, W. J. Am. Chem. Soc. 1988, 110, 6818-6825.

reactant | formic acid | 0.312 mol, 14.361 g | C(=O)O | CH2O2
reactant | acetic anhydride | 0.124 mol, 12.659 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,6-diisopropylaniline | 0.1 mol, 17.729 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-formyl-2,6-diisopropylaniline | C(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C13H19NO
